US07786132B2
(i) 2,2-Dimethoxy-N-(thiophen-2-ylmethyl)ethanamine
Thiophene-2-carboxaldehyde (22.4g, 200 mmol) was dissolved in anhydrous ethanol (200 mL) and treated with 2,2-dimethoxyethanamine (26.6 g, 200 mmol) and para-toluenesulfonic acid hydrate (0.1 g, catalytic) and the mixture heated to reflux for 4 h. The reaction was allowed to cool down to room temperature and sodium borohydride (7.6 g, 200 mmol) was added in small portions to the reaction. Following complete addition, the reaction was stirred at room temperature for 15 min, then at reflux for 2 h. The reaction was allowed to cool down to room temperature and all the volatiles removed in vacuo. The residue was dissolved in ethyl acetate and was washed with saturated aqueous sodium bicarbonate, water and brine. The organic layer was then dried with sodium sulfate, passed through a pad of silica gel, concentrated and placed on a vacuum line to afford an off-white solid. Yield=40.1 g. MS (M+H)+ 202.

reactant | Thiophene-2-carboxaldehyde | 200 mmol, 22.4g | S1C(=CC=C1)C=O | C5H4OS
reactant | 2,2-dimethoxyethanamine | 200 mmol, 26.6 g | COC(CN)OC | C4H11NO2
reactant | para-toluenesulfonic acid hydrate | 0.1 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | sodium borohydride | 200 mmol, 7.6 g | [BH4-].[Na+]
solvent | ethanol | 200 mL | C(C)O | C2H6O
product | 2,2-Dimethoxy-N-(thiophen-2-ylmethyl)ethanamine | COC(CNCC=1SC=CC1)OC | C9H15NO2S
